US04987132
1-Ethoxycarbonylpiperazine and 1-bromo-3-phenylpropane were used as the starting materials and treated in the same manner as in Reference Example 9 to give 1-(3phenylpropyl)piperazine.

reactant | 1-Ethoxycarbonylpiperazine | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | 1-bromo-3-phenylpropane | BrCCCC1=CC=CC=C1 | C9H11Br
product | 1-(3phenylpropyl)piperazine | C1(=CC=CC=C1)CCCN1CCNCC1 | C13H20N2
